US06632809B2
5-Phenyl-1H-benzoimidazol-2-ylamine (7):
To a solution of biphenyl-3,4-diamine (0.99 mmol) in THF:MeOH:water (5 mL:10 mL:10 mL) was added cyanogen bromide (5M solution in acetonitrile, 1.06 mmol). The resulting mixture was stirred at room temperature overnight. The reaction was partitioned between EtOAc and aqueous sodium hydroxide and the aqueous layer re-extracted with EtOAc.

reactant | biphenyl-3,4-diamine | 0.99 mmol | C1(=CC(=C(C=C1)N)N)C1=CC=CC=C1 | C12H12N2
reactant | MeOH | CO | CH4O
reactant | water | 5 mL | O | H2O
reactant | cyanogen bromide | 1.06 mmol, 5M | N#CBr | CBrN
solvent | THF | C1CCOC1 | C4H8O
product | 5-Phenyl-1H-benzoimidazol-2-ylamine | C1(=CC=CC=C1)C1=CC2=C(NC(=N2)N)C=C1 | C13H11N3
